US06391583B1
2% glucose
For strains which required para-aminobenzoic acid (PABA) for growth, PABA was added to a final concentration of 1 μg/ml. For strains which required uracil and uridine these were added at 20 mM and 10 mM, respectively. Spores were suspended in Tween 80—saline solution (0.025% Tween 80, 0.8% NaCl) and stored at 4° C.

reactant | para-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | uracil | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | NaCl | [Na+].[Cl-]
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
